US08426447B2
A 0.5-2 ml microwave vial was charged with tetrakis(triphenylphosphine)palladium(0) (27.9 mg, 0.024 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (86 mg, 0.411 mmol). A solution of (S)-2-amino-6′-fluoro-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate (120 mg, 0.242 mmol) in DMF (1612 μL) was added followed by sodium carbonate (2M solution) (363 μL, 0.725 mmol). The vial was sealed and heated in microwave reactor at 85° C. for 1 hr. The mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, brine, filtered through celite and concentrated to leve brown oil. The crude material was purified by silica gel chromatography on 12 g RediSep column using (15-60% DCM/MeOH/NH4OH 90:10:1 in DCM) to afford (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-3′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine. Found MS: MH+=431.

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.411 mmol, 86 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | (S)-2-amino-6′-fluoro-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.242 mmol, 120 mg | FC(S(=O)(=O)OC1=C(C=C2OC=3C=CC(=CC3[C@@]3(C2=C1)N=C(OC3)N)C=3C=NC=NC3)F)(F)F | C20H12F4N4O5S
reactant | sodium carbonate | 0.725 mmol, 2M, 363 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1612 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.024 mmol, 27.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-3′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | O1CCC(=CC1)C1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1F)C=1C=NC=NC1)N=C(OC3)N | C24H19FN4O3
